Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unsteady gait, posterior headache, mild nausea
 
Major Surgical or Invasive Procedure:
___ Left lung nodule biopsy with Interventional Radiology 
___ Subocciptal craniotomy for tumor resection 

 
History of Present Illness:
___ with hx of hypogonadism presents to the ED from OSH
complaining of 1 week intermittent gait instability, posterior
headache and mild nausea. ___ at ___ showed R cerebellar mass
and associated edema, and patient was transferred to ___ for
further workup/treatment. He denies weight loss/gain, night
sweats, fever, chills, chest pain, SOB, visual disturbance,
numbness/tingling.
 
Past Medical History:
hypogonadism
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ON ADMISSION
============
Gen: WD/WN, comfortable, NAD.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally with two
beat L lateral nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Coordination: normal on finger-nose-finger, heel to shin

Handedness: Right

AT DISCHARGE
============
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 5-4mm
EOM: [x]Full [ ]Restricted, no nystagmus

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No

Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

Mild dysmetria on right FTN

Wound: 
          [x]Clean, dry, no erythema or drainage, Sutures

 
Pertinent Results:
Please See OMR for all lab/imaging results.
 
Brief Hospital Course:
___ w/ 1 week hx of intermittent gait instability, posterior HA, 
and mild nausea, found to have bilateral Right larger than Left 
cerebellar lesions.

#Cerebellar lesions
He was admitted to ___ from the ED for further 
workup/treatment. He was started on dexamethasone. MRI brain 
w/wo contrast showed 3.6 x 3.0 cm irregular enhancing mass 
within the right lateral cerebellar hemisphere with mild 
associated blood products and vasogenic edema. There is also a 9 
x 11 mm ovoid lesion with peripheral enhancement within the left 
cerebellar hemisphere.  These findings are most suspicious for 
metastasis.  Local mass affect results in mild inferior 
displacement of the right cerebellar tonsil.  There is no 
hydrocephalus. Patient underwent suboccipital craniotomy for 
resection of right cerebellar lesion on ___ with Dr. 
___. Procedure was uncomplicated; please see operative report 
for full details. He was extubated, and transported to the PACU 
then ___ for close monitoring. Postop head CT showed no acute 
complications. Postop MRI showed expected postop changes. 
Tapering of the dexamethasone began on ___. He was 
neurologically stable and discharged home in good condition with 
instructions for follow up with Neuro-Oncology and Radiation 
Oncology. 

#Lung Nodule
A CXR in the ED showed a lung nodule in his left lower lobe. A 
CT Torso was obtained w/ contrast was ordered which showed 2.4 
cm spiculated mass in the left lower lobe highly concerning 
primary lung malignancy, No evidence of metastatic disease in 
the thorax and No abdominopelvic lymphadenopathy or concerning 
mass. Patient underwent lung nodule biopsy on ___. Frozen 
was consistent with non-small cell carcinoma, likely 
adenocarcinoma. Final pathology was consistent with 
adenocarcinoma. He will follow up with thoracic oncology.
 
Medications on Admission:
testosterone 100mg 1x/week, multivitamin, fish oil, B12, advil
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: thisw order is a pcau order 

2.  Cyclobenzaprine 5 mg PO TID:PRN muscle spasms 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth TID PRN muscle 
spasm Disp #*21 Tablet Refills:*0 
3.  Dexamethasone 3 mg PO Q8H Duration: 6 Doses 
3mg Q8 x 2 doses today, then tomorrow 2mg Q8H x 2 days, then 2mg 
Q12 continue.   
RX *dexamethasone 1 mg ___ tablet(s) by mouth taper per 
instructions Disp #*90 Tablet Refills:*3 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID PRN 
constipation Disp #*60 Capsule Refills:*0 
5.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4-6H PRN pain Disp #*42 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multiple cerebellar brain metastases
Lung mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Surgery

·     You underwent surgery to remove a brain lesion from your 
brain. 

·     Please keep your incision dry until your sutures are 
removed. 

·     You may shower at this time but keep your incision dry.

·     It is best to keep your incision open to air but it is ok 
to cover it when outside. 

·     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

 

Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

 

Medications

·     ***Please do NOT take any blood thinning medication 
(Aspirin, Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

 

 

What You ___ Experience:

·     You may experience headaches and incisional pain. 

·     You may also experience some post-operative swelling 
around your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

·     You may experience soreness with chewing. This is normal 
from the surgery and will improve with time. Softer foods may be 
easier during this time. 

·     Feeling more tired or restlessness is also common.

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

 

 

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason
 
Followup Instructions:
___